US07435815B2
[(4-tert-Butyl-benzenesulfonyl)-(2-carbamoyl-phenyl)-amino]-acetic acid
prepared by reaction of 2-(4-tert-butyl-benzenesulfonylamino)-benzamide with tert-butyl bromoacetate

reactant | 2-(4-tert-butyl-benzenesulfonylamino)-benzamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)N)C=CC=C1 | C17H20N2O3S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [(4-tert-Butyl-benzenesulfonyl)-(2-carbamoyl-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=C(C=CC=C1)C(N)=O)CC(=O)O | C19H22N2O5S
